US08859572B2
Step 3: Synthesis of N-(8-[3-[(ethylsulfonyl)amino]propoxy]-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide
Ethanesulfonyl chloride (18 mg, 0.14 mmol) was diluted in dichloromethane (5 ml) and cooled to 0° C. A solution of N-[8-(3-amino-propyloxy)-7-methoxy-2,3-dihydro-imidazo[1,2-c]quinazolin-5-yl]-nicotinamide hydrotrifluoroacetate (Step 2, 50 mg, 0.13 mmol) in dimethylformamide (5 mL) was added dropwise, and the mixture was stirred at −10° C. for 30 min. Triethylamine (0.07 mL) was added dropwise, and stirring was continued at −10° C. for another 30 min. The reaction mixture was stirred at rt overnight. Another equivalent of ethanesulfonyl chloride was added, and the mixture was stirred at rt for 12 h. The reaction mixture was quenched by the addition of water, and was extracted with dichloromethane. The combined organic extracts were concentrated to afford a white solid, which was triturated with ethyl acetate to remove residual dimethylformamide. After filtration the solid was carefully washed with water and dried in a vacuum oven. The title compound was obtained as a white solid (4.2 mg, 6.8%). HPLC MS RT=1.63 min, MH+=487.3. 1H NMR (DMSO-d6+2 drops TFA-d) δ: 1.18 (3H, t), 2.00 (2H, m), 2.99 (2H, quartet), 3.14 (2H, t), 4.01 (3H, s), 4.23-4.34 (4H, m), 4.57 (2H, m), 7.49 (1H, d), 7.91 (1H, m), 8.04 (1H, d), 8.95 (1H, m), 8.96 (1H, m), 9.49 (1H, m).

reactant | Ethanesulfonyl chloride | 0.14 mmol, 18 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | N-[8-(3-amino-propyloxy)-7-methoxy-2,3-dihydro-imidazo[1,2-c]quinazolin-5-yl]-nicotinamide | NCCCOC=1C=CC=2C=3N(C(=NC2C1OC)NC(C1=CN=CC=C1)=O)CCN3 | C20H22N6O3
reactant | Triethylamine | 0.07 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(8-[3-[(ethylsulfonyl)amino]propoxy]-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)nicotinamide | C(C)S(=O)(=O)NCCCOC=1C=CC=2C=3N(C(=NC2C1OC)NC(C1=CN=CC=C1)=O)CCN3 | C22H26N6O5S
